US09085555B2
A. 2-Fluoro-1-iodo-3-(trifluoromethoxy)benzene
To a solution of 1-fluoro-2-(trifluoromethoxy)benzene [2106-18-5] (20.0 g, 111 mmol) in dry THF (200 mL), cooled to −78° C., was added dropwise n-BuLi (2.5 M solution in n-hexane; 65 mL, 160 mmol) and subsequently TMEDA (60 mL). The reaction mixture was stirred for additional 60 min at −78° C., followed by addition of a solution of iodine (30.2 g, 120 mmol) in dry THF (50 mL). The resulting mixture was stirred for 1 h and then quenched by addition of a saturated aqueous NH4Cl solution (20 mL). The organic layer was washed with 1N HCl, water and brine, and dried over MgSO4. Volatiles were removed in vacuo to afford the title compound as yellow oil. The product was used in the next reaction step without further purification. MS (LC/MS): 306.0 [M+H]+.

reactant | 1-fluoro-2-(trifluoromethoxy)benzene | 111 mmol, 20.0 g | FC1=C(C=CC=C1)OC(F)(F)F | C7H4F4O
reactant | n-BuLi | 160 mmol, 2.5 M, 65 mL | [Li]CCCC
reactant | TMEDA | 60 mL | CN(C)CCN(C)C | C6H16N2
reactant | iodine | 120 mmol, 30.2 g | II | I2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-1-iodo-3-(trifluoromethoxy)benzene | FC1=C(C=CC=C1OC(F)(F)F)I | C7H3F4IO
